US08563505B2
BuLi (2.5M in hexanes, 11.3 mL, 28.2 mmol) was added to a solution of methyltriphenylphosphonium bromide (10.1 g, 28.2 mmol) in THF (65 mL). The mixture was stirred at 0° C. for 1 hr. A solution of 4′-bromo-5-chlorobiphenyl-2-carbaldehyde (4.2 g, 14.11 mmol) in THF (65 mL) was added dropwise at 0° C. The mixture was stirred overnight from 0° C. to r.t. The reaction was filtered and evaporated. The residue was diluted with diethyl ether and washed with water and brine. The ether layer was collected, dried (MgSO4), filtered and evaporated to give the crude material. The crude material was purified on the Biotage (5-15% EtOAc:Hex) to give 4′-bromo-5-chloro-2-vinylbiphenyl (3.43 g, 11.68 mmol, 83% yield) as a clear oil.

reactant | BuLi | 28.2 mmol, 2.5M, 11.3 mL | [Li]CCCC
reactant | 4′-bromo-5-chlorobiphenyl-2-carbaldehyde | 14.11 mmol, 4.2 g | BrC1=CC=C(C=C1)C=1C(=CC=C(C1)Cl)C=O | C13H8BrClO
catalyst | methyltriphenylphosphonium bromide | 28.2 mmol, 10.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 4′-bromo-5-chloro-2-vinylbiphenyl | 11.68 mmol, 3.43 g, 83% yield | BrC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)C=C | C14H10BrCl
